US07923456B2
Step 10: 5-(2-Fluoro-4-methylsulfanyl-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid
To a solution of 5-(2-fluoro-4-methylsulfanyl-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester (150 mg, 0.45 mmol) in IMS (10 mL) was added sodium hydroxide (0.5 mL, 1M aqueous solution, 0.5 mmol), the reaction mixture heated at 65° C. for 1.5 hours. The reaction mixture was concentrated in vacuo then taken up in water (ca. 15 mL), the aqueous solution was washed with diethyl ether before the pH was adjusted to pH 3 using 1M HCl, resulting in precipitation of a brown solid. The precipitate was extracted using ethyl acetate, the organic phase was isolated and washed with water followed by brine, dried (Na2SO4), filtered and concentrated under reduced pressure to afford the title compound as a brown solid (109 mg, 76%). 1H NMR (CD3OD): 7.67 (1H, s), 7.44 (1H, d, J=9.53 Hz), 7.39 (1H, d, J=0.83 Hz), 7.24 (1H, dd, J=9.57, 0.80 Hz), 7.15 (1H, dd, J=11.47, 2.12 Hz), 7.02-7.01 (1H, m), 6.76 (1H, t, J=8.49 Hz), 2.49 (3H, s).

reactant | 5-(2-fluoro-4-methylsulfanyl-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester | 0.45 mmol, 150 mg | COC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)SC)F)C=NC2 | C16H14FN3O2S
reactant | sodium hydroxide | 0.5 mmol, 1M, 0.5 mL | [OH-].[Na+]
product | 5-(2-Fluoro-4-methylsulfanyl-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid | 109 mg, 76% | FC1=C(C=CC(=C1)SC)NC1=C(C=CC=2N1C=NC2)C(=O)O | C15H12FN3O2S
